US08134001B2
In a manner similar to the method described in Example 50a, 5-bromo-2-fluorobenzaldehyde (4.1 g, 20 mmol) (Alfa) was reacted with 2,6-dimethyl-4-hydroxypyridine (2.5 g, 20 mmol) and K2CO3 in N,N-dimethylacetamide to give 5-bromo-2-(2,6-dimethyl-pyridin-4-yloxy)-benzaldehyde as an off white solid (Yield 6 g, 98%).

reactant | 5-bromo-2-fluorobenzaldehyde | 20 mmol, 4.1 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | 2,6-dimethyl-4-hydroxypyridine | 20 mmol, 2.5 g | CC1=NC(=CC(=C1)O)C | C7H9NO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 5-bromo-2-(2,6-dimethyl-pyridin-4-yloxy)-benzaldehyde | BrC=1C=CC(=C(C=O)C1)OC1=CC(=NC(=C1)C)C | C14H12BrNO2
